US08420655B2
To a mixture of 5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-benzoic acid methyl ester plus regioisomer (1.5 g, 6.38 mmol) in THF (50.0 mL) is added a solution of 2 M LiBH4 in THF (10.0 mL, 20 mmol). The reaction mixture is stirred at room temperature for 16 hours and is then quenched with 4 M HCl in dioxane to give an acidic solution and concentrated under reduced pressure. The resulting residue is diluted with 1 M aqueous NaOH (100 mL), extracted with EtOAc (10 mL×3) and the combined organic layers are dried with Na2SO4 and filtered. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 6% MeOH in CH2Cl2 as the eluent to afford [5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-phenyl]-methanol plus regiosiomer (1.0 g, 75%).

reactant | 5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)F)C=1N(N=CN1)C)=O | C11H10FN3O2
reactant | LiBH4 | 2 M | [Li+].[BH4-]
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 10.0 mL | C1CCOC1 | C4H8O
product | [5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-phenyl]-methanol | FC=1C=CC(=C(C1)CO)C=1N(N=CN1)C | C10H10FN3O
